US07968746B2
Following the amide coupling procedure described in protocol A, 506 mg 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (2.02 mmol), 365 mg CDI (2.25 mmol) and 386 mg 1-benzylpiperazine (2.2 mmol) yielded 568 mg of (4-benzylpiperazin-1-yl)(6-hydroxy-2,5,7,8-tetramethylchroman-2-yl)methanone as a white powder.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 2.02 mmol, 506 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 2.25 mmol, 365 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-benzylpiperazine | 2.2 mmol, 386 mg | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
product | (4-benzylpiperazin-1-yl)(6-hydroxy-2,5,7,8-tetramethylchroman-2-yl)methanone | 568 mg | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)C1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C25H32N2O3
